US05498630
Diethyl amine (15.4 g, 210 mmol) and 2,5-difluorobenzoyl chloride (17.6 g, 100 mmol) were reacted using General Method E1 to afford 20.0 g of N,N-diethyl-2,5-difluorobenzamide as a clear oil, a 94% yield.

reactant | Diethyl amine | 210 mmol, 15.4 g | C(C)NCC | C4H11N
reactant | 2,5-difluorobenzoyl chloride | 100 mmol, 17.6 g | FC1=C(C(=O)Cl)C=C(C=C1)F | C7H3ClF2O
product | N,N-diethyl-2,5-difluorobenzamide | 20.0 g, 94% yield | C(C)N(C(C1=C(C=CC(=C1)F)F)=O)CC | C11H13F2NO
